US04061653
3-Amino-1-(3-chloro-4-methylbenzyl)-pyrazol-5-one
50 g of 4 methyl-3-chlorobenzylhydrazine were added dropwise, under nitrogen, to a solution of 46.7 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1.5 g of p-toluene-sulphonic acid in 200 ml of ethanol. After stirring for a further two hours, the compound identified above precipitated. It was filtered off and recrystallised from ethanol. Melting point: 130°-131°, 35 g (50%).

reactant | methyl-3-chlorobenzylhydrazine | CN(N)CC1=CC(=CC=C1)Cl | C8H11ClN2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 46.7 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluene-sulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-chloro-4-methylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)C)Cl | C11H12ClN3O
